US04138485
Preparation of N-(4-nitrobenzylthiocarbonyl)-L-phenylalanine
8.3 G (0.05 mol) of L-phenylalanine and 13.9 ml (0.1 mol) of triethylamine were dissolved in 50 ml of water. To the solution was added 100 ml of dioxane solution containing 8.6 g (0.5 mol) of 4-nitrobenzylchloride. 3.0 g (0.05 mol) of carbonyl sulfide was blown into the solution at a temperature of from 10° to 15° C. in 15 minutes. After completion of blowing, the mixture was subjected to reaction at room temperature for 2 hours. After completion of reaction, the solid material obtained in a similar manner to that described in Example 1 was recrystallized from 50 ml of ethylacetate and 20 ml of n-hexane to yield 9.4 g of pale yellow crystals.

reactant | L-phenylalanine | 0.05 mol | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 0.1 mol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzylchloride | 0.5 mol, 8.6 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | carbonyl sulfide | 0.05 mol, 3.0 g | C(=O)=S | COS
solvent | water | 50 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(4-nitrobenzylthiocarbonyl)-L-phenylalanine | 9.4 g, Yield: 52.2% | [N+](=O)([O-])C1=CC=C(CC(=S)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C17H16N2O4S
